US07576217B2
1-(6-Bromo-2-isopropyl-4-phenyl-quinolin-3-yl)-2-methyl-propan-1-one
The title compound was prepared from (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 2,6-dimethyl-3,5-heptanedione according to the method of example 1, except that the reaction time was of 96 h and the residue was purified by chromatography on aminated silica gel with heptane/ethyl acetate (85:15). Yield: 46%. MS: m/z=395/397 (M).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 2,6-dimethyl-3,5-heptanedione | CC(C)C(CC(C(C)C)=O)=O | C9H16O2
product | 1-(6-Bromo-2-isopropyl-4-phenyl-quinolin-3-yl)-2-methyl-propan-1-one | Yield: 46% | BrC=1C=C2C(=C(C(=NC2=CC1)C(C)C)C(C(C)C)=O)C1=CC=CC=C1 | C22H22BrNO
